*  File     : high-temperature_scr_pspice.LIB 
*  Revision : 7.0           
*  Date     : 03/2023 
*
**********************************************************************
*All ST products are sold pursuant to ST’s terms and conditions of sale.
*Purchasers are solely responsible for the choice, selection and use of the ST products and services described herein, and ST assumes no
*liability whatsoever relating to the choice, selection or use of the ST products and services described herein.
*No license, express or implied, by estoppel or otherwise, to any intellectual property rights is granted under this document. If any part of this
*document refers to any third party products or services it shall not be deemed a license grant by ST for the use of such third party products
*or services, or any intellectual property contained therein or considered as a warranty covering the use in any manner whatsoever of such
*third party products or services or any intellectual property contained therein.
*UNLESS OTHERWISE SET FORTH IN ST’S TERMS AND CONDITIONS OF SALE ST DISCLAIMS ANY EXPRESS OR IMPLIED
*WARRANTY WITH RESPECT TO THE USE AND/OR SALE OF ST PRODUCTS INCLUDING WITHOUT LIMITATION IMPLIED
*WARRANTIES OF MERCHANTABILITY, FITNESS FOR A PARTICULAR PURPOSE (AND THEIR EQUIVALENTS UNDER THE LAWS
*OF ANY JURISDICTION), OR INFRINGEMENT OF ANY PATENT, COPYRIGHT OR OTHER INTELLECTUAL PROPERTY RIGHT.
*UNLESS EXPRESSLY APPROVED IN WRITING BY AN AUTHORIZED ST REPRESENTATIVE, ST PRODUCTS ARE NOT
*RECOMMENDED, AUTHORIZED OR WARRANTED FOR USE IN MILITARY, AIR CRAFT, SPACE, LIFE SAVING, OR LIFE SUSTAINING
*APPLICATIONS, NOR IN PRODUCTS OR SYSTEMS WHERE FAILURE OR MALFUNCTION MAY RESULT IN PERSONAL INJURY,
*DEATH, OR SEVERE PROPERTY OR ENVIRONMENTAL DAMAGE. ST PRODUCTS WHICH ARE NOT SPECIFIED AS "AUTOMOTIVE
*GRADE" MAY ONLY BE USED IN AUTOMOTIVE APPLICATIONS AT USER’S OWN RISK.
*Resale of ST products with provisions different from the statements and/or technical features set forth in this document shall immediately void
*any warranty granted by ST for the ST product or service described herein and shall not create or extend in any manner whatsoever, any
*liability of ST.
*ST and the ST logo are trademarks or registered trademarks of ST in various countries.
*Information in this document supersedes and replaces all information previously supplied.
*The ST logo is a registered trademark of STMicroelectronics. All other names are the property of their respective owners.
*© 2008 STMicroelectronics - All rights reserved
*STMicroelectronics group of companies
*Australia - Belgium - Brazil - Canada - China - Czech Republic - Finland - France - Germany - Hong Kong - India - Israel - Italy - Japan -
*Malaysia - Malta - Morocco - Singapore - Spain - Sweden - Switzerland - United Kingdom - United States of America
*www.st.com                              
**********************************************************************
*	
***********************************************************************
* 		 	Thyristor PSpice Models                       *
***********************************************************************
* Note :
*
*	This thyristor model simulates:
*	-Igt MAX of the specification
*   -Il  Typ of the specification
*   -Ih  Typ of the specification
*   -VDRM
*   -VRRM
*   -Power dissipation is realistic and correspond to a typical SCR
*
*   All these parameters are constant, and don't vary neither 
*   with temperature nor other parameters. 
*
*   For a correct SCR behavior, the "Maximum step size" must be below 
*   or equal 20µs.
*
*
*$
.subckt SCR_ST A K G PARAMS:
+ Vdrm=400v     
+ Igt=20ma
+ Ih=6ma        
+ Rt=0.01
*
* Vdrm : Repetitive forward off-state voltage
* Ih   : Holding current 
* Igt  : Gate trigger current 
* Rt   : Dynamic on-state resistance
*
*********************************
* Power circuit *
*********************************
*
****************************
*Switch circuit*
****************************
* Q1 & Q2 Conduction
S_S3         A Plip1 positive 0 Smain
*RS_S3        positive 0 1G
D_DAK1         Plip1 Plip2 Dak 
R_Rlip         Plip1 Plip2  1k
V_Viak         Plip2 K DC 0 AC 0 
*
****************************
*Gate circuit*
****************************
R_Rgk         G K  10G  
D_DGKd        G Pg2 Dgk 
V_Vig         Pg2 K DC 0 AC 0 
R_Rlig        G Pg2  1k  
*
****************************
*Interface circuit*
****************************
* positive pilot
R_Rp              Controlp positive  2.2  
C_Cp              0 positive  1u 
E_IF15OR3         Controlp 0 VALUE {IF(  ( (V(CMDIG)>0.5) | (V(CMDILIH)>0.5) |
+ (V(CMDVdrm)>0.5) ),400,0 )}
* 
*
*
*
*********************************
* Pilots circuit *
*********************************
****************************
* Pilot Gate     *
****************************
E_IF1IG         CMDIG 0 VALUE {IF((((I(V_Vig))>(Igt-1u)))& (((V(A)-V(K))>0)),1,0 )}
*
****************************
* Pilot IHIL     *
****************************
*
E_IF10IL         inIL 0 VALUE {IF( ((I(V_Viak))>(Ih/2)),1,0 )}
E_IF5IH          inIH 0 VALUE {IF( ((I(V_Viak))>(Ih/3)),1,0 )} 
*
* Flip_flop IHIL
E_IF6DIHIL         SDIHIL 0 VALUE {IF(
+ (V(inIL)*V(inIH)+V(inIH)*(1-V(inIL))*(V(CMDILIH)) )>0.5,1,0)}
C_CIHIL            CMDILIH 0  1n  
R_RIHIL            SDIHIL CMDILIH  1K  
R_RIHIL2           CMDILIH 0  100Meg  
*
****************************
* Pilot VDRM     *
****************************
E_IF8Vdrm           inVdrm 0 VALUE {IF( ((V(A)-V(K))>(Vdrm*1.3)),1,0 )}
E_IF9IHVDRM         inIhVdrm 0 VALUE {IF( I(V_Viak)>(Vdrm*1.3)/1.2meg
+ ,1,0)}
* Flip_flop VDRM
E_IF7DVDRM         SDVDRM 0 VALUE {IF(
+ (V(inVdrm)+(1-V(inVdrm))*V(inIhVdrm)*V(CMDVdrm) )>0.5,1,0)}
C_CVdrm            CMDVdrm 0  1n  
R_RVdrm            SDVDRM CMDVdrm  100  
R_RVdrm2           CMDVdrm 0  100Meg  
*
****************************
* Switch Model *
****************************
.MODEL Smain VSWITCH Roff=1.2meg Ron={Rt} Voff=0 Von=100
****************
* Diodes Model *
****************
.MODEL  Dak D( Is=3E-12 Cjo=5pf) 
.MODEL  Dgk D( Is=1E-16 Cjo=50pf Rs=5 Bv=12V Ibv=100uA) 
.ends 
*
*********************************************************************
* 				SCR PSpice Library                  *
*********************************************************************
*********************************************************************
* 				Standard SCRs definition			    *
*********************************************************************
*
*$
.subckt X0115M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=0.150ma
+ Ih=5ma
+ Rt=0.54
* 2023 / ST / Rev 0
.ends
*$
.subckt TXN825RG A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=40ma
+ Ih=50ma
+ Rt=0.014
* 2021 / ST / Rev 0
.ends
*$
.subckt X0115MUF A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=0.150ma
+ Ih=5ma
+ Rt=0.23
* 2021 / ST / Rev 0
.ends
*$
.subckt TN2540-12G A K G
X1 A K G SCR_ST params:
+ Vdrm=1200v
+ Igt=40ma
+ Ih=80ma
+ Rt=0.014
* 2021 / ST / Rev 0
.ends
*$
.subckt TN4050-12WL A K G
X1 A K G SCR_ST params:
+ Vdrm=1200v
+ Igt=50ma
+ Ih=100ma
+ Rt=0.0098
* 2021 / ST / Rev 0
.ends
*$
.subckt TN4050-12PI A K G
X1 A K G SCR_ST params:
+ Vdrm=1200v
+ Igt=50ma
+ Ih=100ma
+ Rt=0.0098
* 2021 / ST / Rev 0
.ends
*$
.subckt TN6050-12WL A K G
X1 A K G SCR_ST params:
+ Vdrm=1200v
+ Igt=50ma
+ Ih=100ma
+ Rt=0.0098
* 2021 / ST / Rev 0
.ends
*$
.subckt TN6050-12PI A K G
X1 A K G SCR_ST params:
+ Vdrm=1200v
+ Igt=50ma
+ Ih=100ma
+ Rt=0.0071
* 2021 / ST / Rev 0
.ends
*$
.subckt TN815-800H A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=0.2ma
+ Ih=5ma
+ Rt=0.046
* 2021 / ST / Rev 0
.ends
*$
.subckt TN815-800B A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=0.2ma
+ Ih=5ma
+ Rt=0.046
* 2021 / ST / Rev 0
.ends
*$
.subckt TS110-8 A K G
X1 A K G SCR_ST params:
+ Vdrm=800v
+ Igt=0.1ma
+ Ih=12ma
+ Rt=0.22
* 2015 / ST / Rev 0
.ends
*$
.subckt TS820-600FP A K G
X1 A K G SCR_ST params:
+ Vdrm=600v
+ Igt=200ua
+ Ih=5ma
+ Rt=0.046
* 2015 / ST / Rev 0
.ends
*$
.subckt BTW68-800 A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=50ma
+ Ih=75ma        
+ Rt=0.0085
* 2008 / ST / Rev 0
.ends
*$
.subckt BTW68-600 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=50ma
+ Ih=75ma        
+ Rt=0.0085
* 2008 / ST / Rev 0
.ends
*$
.subckt BTW68-1200 A K G
X1 A K G SCR_ST params:
+ Vdrm=1200v     
+ Igt=50ma
+ Ih=75ma        
+ Rt=0.0085
* 2010 / ST / Rev 0
.ends
*$
.subckt BTW69-1200 A K G
X1 A K G SCR_ST params:
+ Vdrm=1200v     
+ Igt=50ma
+ Ih=100ma        
+ Rt=0.0085
* 2013 / ST / Rev 1
.ends
*$
.subckt BTW69-800 A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=80ma
+ Ih=150ma        
+ Rt=0.0085
* 2008 / ST / Rev 0
.ends
*$
.subckt BTW69-600 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=80ma
+ Ih=150ma        
+ Rt=0.0085
* 2008 / ST / Rev 0
.ends
*$
.subckt BTW67-1000 A K G
X1 A K G SCR_ST params:
+ Vdrm=1000v     
+ Igt=80ma
+ Ih=150ma        
+ Rt=0.0085
* 2010 / ST / Rev 0
.ends
*$
.subckt BTW67-600 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=80ma
+ Ih=150ma        
+ Rt=0.0085
* 2008 / ST / Rev 0
.ends
*$
.subckt XL0840 A K G
X1 A K G SCR_ST params:
+ Vdrm=400v     
+ Igt=0.2ma
+ Ih=5ma        
+ Rt=0.6
* 2008 / ST / Rev 0
.ends
*$
.subckt X0405N A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=0.05ma
+ Ih=5ma        
+ Rt=0.1
* 2008 / ST / Rev 0
.ends
*$
.subckt X0405M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=0.05ma
+ Ih=5ma        
+ Rt=0.1
* 2008 / ST / Rev 0
.ends
*$
.subckt X0402N A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=0.2ma
+ Ih=5ma        
+ Rt=0.1
* 2008 / ST / Rev 0
.ends
*$
.subckt X0402M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=0.2ma
+ Ih=5ma        
+ Rt=0.1
* 2008 / ST / Rev 0
.ends
*$
.subckt X0205N A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=0.05ma
+ Ih=5ma        
+ Rt=0.2
* 2008 / ST / Rev 0
.ends
*$
.subckt X0205M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=0.05ma
+ Ih=5ma        
+ Rt=0.2
* 2008 / ST / Rev 0
.ends
*$
.subckt X0202M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=0.2ma
+ Ih=5ma        
+ Rt=0.2
* 2008 / ST / Rev 0
.ends
*$
.subckt X00602 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=0.2ma
+ Ih=5ma        
+ Rt=0.245
* 2008 / ST / Rev 0
.ends
*$
.subckt X00619 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=0.2ma
+ Ih=5ma        
+ Rt=0.245
* 2010 / ST / Rev 0
.ends
*$
.subckt TYN606 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=15ma
+ Ih=30ma        
+ Rt=0.06
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN816 A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=25ma
+ Ih=40ma        
+ Rt=0.023
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN812T A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=5ma
+ Ih=15ma        
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN812 A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=15ma
+ Ih=30ma        
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN840 A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=35ma
+ Ih=75ma        
+ Rt=0.01
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN640 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=35ma
+ Ih=75ma        
+ Rt=0.01
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN1225 A K G
X1 A K G SCR_ST params:
+ Vdrm=1200v     
+ Igt=40ma
+ Ih=50ma        
+ Rt=0.014
* 2012 / ST / Rev 0
.ends
*$
.subckt TYN825 A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=40ma
+ Ih=50ma        
+ Rt=0.014
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN625 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=40ma
+ Ih=50ma        
+ Rt=0.014
* 2008 / ST / Rev 0
.ends
*$
.subckt TXN625 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=40ma
+ Ih=50ma        
+ Rt=0.014
* 2011 / ST / Rev 0
.ends
*$
.subckt TYN616 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=25ma
+ Ih=40ma        
+ Rt=0.023
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN612T A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=5ma
+ Ih=15ma        
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN612 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=15ma
+ Ih=30ma        
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN612M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=5ma
+ Ih=20ma        
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN608 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=15ma
+ Ih=30ma        
+ Rt=0.046
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN810 A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=15ma
+ Ih=30ma        
+ Rt=0.035
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN610 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=15ma
+ Ih=30ma        
+ Rt=0.035
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN1012T A K G
X1 A K G SCR_ST params:
+ Vdrm=1000v     
+ Igt=5ma
+ Ih=15ma        
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TYN1012 A K G
X1 A K G SCR_ST params:
+ Vdrm=1000v     
+ Igt=15ma
+ Ih=30ma        
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TS420-600 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=0.2ma
+ Ih=5ma        
+ Rt=0.09
* 2008 / ST / Rev 0
.ends
*$
.subckt TS1220-600 A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=0.2ma
+ Ih=5ma        
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TN815-800B A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=15ma
+ Ih=40ma        
+ Rt=0.046
* 2008 / ST / Rev 0
.ends
*$
.subckt TN815-600B A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=15ma
+ Ih=40ma        
+ Rt=0.046
* 2008 / ST / Rev 0
.ends
*$
.subckt TN805-600B A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=5ma
+ Ih=25ma        
+ Rt=0.046
* 2008 / ST / Rev 0
.ends
*$
.subckt TN2540-800G A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=40ma
+ Ih=50ma        
+ Rt=0.014
* 2008 / ST / Rev 0
.ends
*$
.subckt TN2540-600G A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=40ma
+ Ih=50ma        
+ Rt=0.014
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1625-600G A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=25ma
+ Ih=40ma        
+ Rt=0.023
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1625-1000G A K G
X1 A K G SCR_ST params:
+ Vdrm=1000v     
+ Igt=25ma
+ Ih=40ma        
+ Rt=0.023
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1515-600B A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=15ma
+ Ih=40ma        
+ Rt=0.025
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1215-800H A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=15ma
+ Ih=40ma        
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1215-800G A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=15ma
+ Ih=30ma        
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1215-800B A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=15ma
+ Ih=40ma        
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1205T-600B A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=5ma
+ Ih=15ma        
+ Rt=0.03
* 2010 / ST / Rev 0
.ends
*$
.subckt TN1215-600H A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=15ma
+ Ih=40ma        
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1215-600G A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=15ma
+ Ih=30ma        
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt TN1215-600B A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=15ma
+ Ih=40ma        
+ Rt=0.03
* 2008 / ST / Rev 0
.ends
*$
.subckt P0118M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=0.005ma
+ Ih=5ma        
+ Rt=0.6
* 2008 / ST / Rev 0
.ends
*$
.subckt P0118D A K G
X1 A K G SCR_ST params:
+ Vdrm=400v     
+ Igt=0.005ma
+ Ih=5ma        
+ Rt=0.6
* 2008 / ST / Rev 0
.ends
*$
.subckt P0111M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=0.025ma
+ Ih=5ma        
+ Rt=0.6
* 2008 / ST / Rev 0
.ends
*$
.subckt P0111D A K G
X1 A K G SCR_ST params:
+ Vdrm=400v     
+ Igt=0.025ma
+ Ih=5ma        
+ Rt=0.6
* 2008 / ST / Rev 0
.ends
*$
.subckt P0102M A K G
X1 A K G SCR_ST params:
+ Vdrm=600v     
+ Igt=0.2ma
+ Ih=5ma        
+ Rt=0.6
* 2008 / ST / Rev 0
.ends
*$
.subckt P0102D A K G
X1 A K G SCR_ST params:
+ Vdrm=400v     
+ Igt=0.2ma
+ Ih=5ma        
+ Rt=0.6
* 2008 / ST / Rev 0
.ends
*$
.subckt P0102BL A K G
X1 A K G SCR_ST params:
+ Vdrm=200v     
+ Igt=0.2ma
+ Ih=6ma        
+ Rt=1
* 2008 / ST / Rev 0
.ends
*$
.subckt X0202N A K G
X1 A K G SCR_ST params:
+ Vdrm=800v     
+ Igt=0.2ma
+ Ih=5ma        
+ Rt=0.2
* 2008 / ST / Rev 1
.ends
*$
.subckt TS110-7 A K G
X1 A K G SCR_ST params:
+ Vdrm=700v     
+ Igt=0.1ma
+ Ih=2ma        
+ Rt=0.2
* 2013 / ST / Rev 0
.ends
*$
